US08252825B2
Step B: 1-[({[(4R,5R)-3 Methyl-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]-1-methylethyl 2-ethoxy-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate
1-[({[(4R,5R)-3-Methyl-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]-1-methylethyl 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate (1.77 g, 1.76 mmol) was dissolved in CH2Cl2 (5 mL) and MeOH was added (30 mL). After stirring at room temperature for 72 hrs, the solution was concentrated under reduced pressure. The residue was purified by flash chromatography (Biotage SP1, SNAP 100 g column, CH2Cl2/MeOH 98:2) affording the tile compound as a white solid.

reactant | 1-[({[(4R,5R)-3-Methyl-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]-1-methylethyl 2-ethoxy-1-{[2′-(1-trityl-1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate | 1.76 mmol, 1.77 g | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=CC=C2)C(=O)OC(C)(C)OC(=O)OCCC([C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-])C | C54H52N8O12
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[({[(4R,5R)-3 Methyl-4,5-bis(nitrooxy)hexyl]oxy}carbonyl)oxy]-1-methylethyl 2-ethoxy-1-{[2′-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl}-1H-benzimidazole-7-carboxylate | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC(C)(C)OC(=O)OCCC([C@H]([C@@H](C)O[N+](=O)[O-])O[N+](=O)[O-])C | C35H38N8O12
